US09079866B2
1-(2-Bromophenylsulfonyl)cyclopentanecarboxamide
A 30% H2O2 solution (1.6 mL) was added drop-wise at rt to a mixture of 1-(2-bromophenylsulfonyl)cyclopentanecarbonitrile (1.6 g, 5.1 mmol), K2CO3 (2.1 g, 15 mmol), and DMSO (5 mL). The mixture was stirred for 30 min before diluting with water (40 mL) and isolating the precipitate via vacuum filtration. The precipitate was washed with water and air-dried to give the title compound (1.5 g, 89%). MS (ESI): mass calcd. for C12H19NO3S, 330.99; m/z found, 331.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 7.99-7.95 (m, 1H), 7.89-7.84 (m, 1H), 7.64-7.51 (m, 4H), 2.41-2.25 (m, 4H), 1.78-1.66 (m, 2H), 1.58-1.45 (m, 2H).

reactant | H2O2 | 1.6 mL | OO | H2O2
reactant | 1-(2-bromophenylsulfonyl)cyclopentanecarbonitrile | 5.1 mmol, 1.6 g | BrC1=C(C=CC=C1)S(=O)(=O)C1(CCCC1)C#N | C12H12BrNO2S
reactant | K2CO3 | 15 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 40 mL | O | H2O
product | 1-(2-Bromophenylsulfonyl)cyclopentanecarboxamide | 1.5 g, 89% | BrC1=C(C=CC=C1)S(=O)(=O)C1(CCCC1)C(=O)N | C12H14BrNO3S
